US09120777B2
A) 1-(1-((6-Cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid hydrochloride
1-(1-((6-Cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid (15.0 g) was dissolved in isopropanol (150 mL) at 60 C. The mixture was cooled to room temperature. 2M hydrogen chloride (isopropanol solution, 21.0 mL) was added to the mixture at room temperature. After being stirred at room temperature for 30 minutes, diisopropyl ether (300 mL) and crystalline seeds were added to the mixture. The mixture was stirred for 1 hour under nitrogen atmosphere. The precipitate was collected by filtration, washed with diisopropyl ether (150 mL) and heptane (100 mL), and then dried at 60 C to give the title compound (14.3 g).

reactant | 1-(1-((6-Cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 15.0 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OC(C)C)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)O)C)=O | C31H34F2N2O4
reactant | hydrogen chloride | 2M, 21.0 mL | Cl | ClH
reactant | diisopropyl ether | 300 mL | C(C)(C)OC(C)C | C6H14O
solvent | isopropanol | 150 mL | C(C)(C)O | C3H8O
product | 1-(1-((6-Cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid hydrochloride | 14.3 g | Cl.C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OC(C)C)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)O)C)=O | InChI=1S/C31H34F2N2O4.ClH/c1-18(2)39-29-22(16-26(20-4-5-20)27(28(29)33)21-6-8-23(32)9-7-21)17-34-13-10-24(11-14-34)35-15-12-25(31(37)38)19(3)30(35)36;/h6-9,12,15-16,18,20,24H,4-5,10-11,13-14,17H2,1-3H3,(H,37,38);1H
